* Mixed-signal (d_cosim) testbench for CAD7/imem.v
*
* Scans the first 16 instructions (16-bit words = 2 bytes each): PC = 0..15.
* Notes:
* - This uses ngspice's d_cosim wrapper built from imem.v as CAD7/imem.so.
* - The contents depend on how imem.so was built (see CAD7/Makefile build-<bench>).
*
.option nomod

.param VDD=3.3
.param TSTEP=10n

* Provide a clock input for imem.v (used only to "tickle" d_cosim evals)
VCLK  CLK   0 PULSE(0 {VDD} 0 1p 1p 5n 10n)

* --- PC stimulus ----------------------------------------------------------
* Hold PC=0 for the first TSTEP, then increment once per TSTEP.
* Addressing is byte-based; instructions are 2 bytes, so scan addresses:
*   0, 2, 4, ..., 30
* i.e. the effective word index is PC[15:1] and PC[4:1] forms a 4-bit count 0..15.
*
* Note on cosim stability:
* `imem.so` is evaluated by the d_cosim wrapper when its inputs change.
* During binary counting, multiple PC bits can toggle at the same time, and
* the wrapper can temporarily latch an intermediate address. Since `imem.v`
* ignores PC0 (pc[15:1]), we use PC0 as a harmless "strobe" pulse to force a
* re-evaluation after the address bits have settled.
*
* PC0 is ignored by word_addr.
VPC0  PC0   0 0

* Counter on PC[4:1] (PULSE starts after its delay)
* Small skews prevent multiple bits from toggling at the exact same instant.
VPC1  PC1   0 PULSE(0 {VDD} {1*TSTEP}   1p 1p {1*TSTEP} {2*TSTEP})
VPC2  PC2   0 PULSE(0 {VDD} {2*TSTEP}   1p 1p {2*TSTEP} {4*TSTEP})
VPC3  PC3   0 PULSE(0 {VDD} {4*TSTEP}   1p 1p {4*TSTEP} {8*TSTEP})
VPC4  PC4   0 PULSE(0 {VDD} {8*TSTEP}   1p 1p {8*TSTEP} {16*TSTEP})

* Upper bits stay 0 (scan only the first 16 instructions)
VPC5  PC5   0 0
VPC6  PC6   0 0
VPC7  PC7   0 0
VPC8  PC8   0 0
VPC9  PC9   0 0
VPC10 PC10  0 0
VPC11 PC11  0 0
VPC12 PC12  0 0
VPC13 PC13  0 0
VPC14 PC14  0 0
VPC15 PC15  0 0

* --- IMEM mixed-signal (Verilog via d_cosim) ------------------------------
* Keep this instantiation self-contained (mirrors instantiate.py output).
* The signal naming (PC15..PC0, IMEM_Q15..IMEM_Q0) must match the wrapper.

aimem [ CLK PC15 PC14 PC13 PC12 PC11 PC10 PC9 PC8 PC7 PC6 PC5 PC4 PC3 PC2 PC1 PC0 ] [ IMEM_Q15 IMEM_Q14 IMEM_Q13 IMEM_Q12 IMEM_Q11 IMEM_Q10 IMEM_Q9 IMEM_Q8 IMEM_Q7 IMEM_Q6 IMEM_Q5 IMEM_Q4 IMEM_Q3 IMEM_Q2 IMEM_Q1 IMEM_Q0 ] null imem
.model imem d_cosim simulation="/foss/designs/engn1600-team1/CAD7/imem.so" delay=10p

* Weak terminations for numerical stability / plotting convenience
Rterm_CLK  CLK  0 1G
Rterm_PC0  PC0  0 1G
Rterm_PC1  PC1  0 1G
Rterm_PC2  PC2  0 1G
Rterm_PC3  PC3  0 1G
Rterm_PC4  PC4  0 1G
Rterm_PC5  PC5  0 1G
Rterm_PC6  PC6  0 1G
Rterm_PC7  PC7  0 1G
Rterm_PC8  PC8  0 1G
Rterm_PC9  PC9  0 1G
Rterm_PC10 PC10 0 1G
Rterm_PC11 PC11 0 1G
Rterm_PC12 PC12 0 1G
Rterm_PC13 PC13 0 1G
Rterm_PC14 PC14 0 1G
Rterm_PC15 PC15 0 1G

Rterm_Q0   IMEM_Q0  0 1G
Rterm_Q1   IMEM_Q1  0 1G
Rterm_Q2   IMEM_Q2  0 1G
Rterm_Q3   IMEM_Q3  0 1G
Rterm_Q4   IMEM_Q4  0 1G
Rterm_Q5   IMEM_Q5  0 1G
Rterm_Q6   IMEM_Q6  0 1G
Rterm_Q7   IMEM_Q7  0 1G
Rterm_Q8   IMEM_Q8  0 1G
Rterm_Q9   IMEM_Q9  0 1G
Rterm_Q10  IMEM_Q10 0 1G
Rterm_Q11  IMEM_Q11 0 1G
Rterm_Q12  IMEM_Q12 0 1G
Rterm_Q13  IMEM_Q13 0 1G
Rterm_Q14  IMEM_Q14 0 1G
Rterm_Q15  IMEM_Q15 0 1G

.control
save all

* Run long enough to cover 16*TSTEP (160 ns) and give a bit of settle time.
* NOTE: In ngspice .control, the stop time here must be a concrete value.
tran 0.1n 162n

write imem_tb.raw
.endc

.end
